US07332499B2
3,3′-Difluoro-4′-((1R)-1-{[(1-{[(trifluoromethyl)sulfonyl]amino}cyclopropyl)carbonyl]amino}ethyl)-1,1′-biphenyl-2-yl trifluoromethanesulfonate
N-[(1R)-1-(3,3′-difluoro-2′-hydroxy-1,1′-biphenyl-4-yl)ethyl]-1-[(trifluoroacetyl)amino]-cyclopropanecarboxamide (1.930 g, 4.51 mmol) and triethylamine (2.912 g, 22.53 mmol) were dissolved in CH2Cl2 (20 mL) and cooled to −78 C. To this solution was added trifluoromethanesulfonic anhydride (2.225 g, 7.885 mmol). After 30 minutes the reaction was quenched with a saturated bicarbonate solution and warmed at 25° C. Extracted with CH2Cl2, dried extract over Na2SO4, filtered and concentrated under reduced pressure to obtain a solid. This solid was suspended in 6N hydrochloric acid (10 mL) and heated to 90° C. After 1.5 hours the reaction was poured into a saturated aqueous bicarbonate solution that was subsequently extracted with ethyl acetate. The organic extract was dried with sodium sulfate, filtered and concentrated to a solid under reduced vacuum. This solid was then purified by reverse phase chromatography utilizing a gradient from 95/5H2O/CH3CN to 5/95H2O/CH3CN. The product was lyophilized yielding the title compound as a solid. High resolution mass spectrometry:

reactant | N-[(1R)-1-(3,3′-difluoro-2′-hydroxy-1,1′-biphenyl-4-yl)ethyl]-1-[(trifluoroacetyl)amino]-cyclopropanecarboxamide | 4.51 mmol, 1.930 g | FC=1C=C(C=CC1[C@@H](C)NC(=O)C1(CC1)NC(C(F)(F)F)=O)C1=C(C(=CC=C1)F)O | C20H17F5N2O3
reactant | triethylamine | 22.53 mmol, 2.912 g | C(C)N(CC)CC | C6H15N
reactant | trifluoromethanesulfonic anhydride | 7.885 mmol, 2.225 g | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | bicarbonate | C([O-])(O)=O
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
solvent | hydrochloric acid | 6N, 10 mL | Cl | ClH
product | 3,3′-Difluoro-4′-((1R)-1-{[(1-{[(trifluoromethyl)sulfonyl]amino}cyclopropyl)carbonyl]amino}ethyl)-1,1′-biphenyl-2-yl trifluoromethanesulfonate | FC(S(=O)(=O)OC1=C(C=CC=C1F)C1=CC(=C(C=C1)[C@@H](C)NC(=O)C1(CC1)NS(=O)(=O)C(F)(F)F)F)(F)F | C20H16F8N2O6S2
